US04239701
A solution of 31.12 g (0.1 mol) of tris(N-carbomethoxyaminomethyl)phosphine oxide in 100 ml of constant-boiling (47-49%) hydrobromic acid was heated to reflux with constant stirring. Within a few minutes, solids started to separate. The mixture was heated at reflux for one hour, cooled, and filtered. The filter cake, rinsed with ethanol and air-dried, afforded 18.95 g (49.9% yield) of tris(aminomethyl)phosphine oxide trihydrobromide as a white, crystalline solid, dec. 233° C. with reddening. Another 2.60 g (6.8% yield) was recovered from the filtrate after heating at reflux an additional hour.

reactant | tris(N-carbomethoxyaminomethyl)phosphine oxide | 0.1 mol, 31.12 g | C(=O)(OC)NCP(CNC(=O)OC)(CNC(=O)OC)=O | C9H18N3O7P
reactant | hydrobromic acid | Br | BrH
product | tris(aminomethyl)phosphine oxide trihydrobromide | 18.95 g, 49.9% yield | Br.Br.Br.NCP(CN)(CN)=O | InChI=1S/C3H12N3OP.3BrH/c4-1-8(7,2-5)3-6;;;/h1-6H2;3*1H
